US06747049B2
c) 2-({4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenylamino}-methyl)-benzoic acid ethyl ester
To a solution of 7.00 g of 2-[(tert-butoxycarbonyl-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-amino)-methyl]-benzoic acid ethyl ester in 40 ml of dichloromethane was added 9.6 ml of trifluoroacetic acid and stirring was continued at 22° C. for 2.5 h. The mixture was partitioned between aqueous saturated Na2CO3 and dichloromethane, the organic layer was dried and evaporated. The residue was purified by chromatography (SiO2, n-hexane/AcOEt 4:1) to give 3.14 g of the title compound as a pale yellow oil. MS: (M+H)+ 457.5.

reactant | 2-[(tert-butoxycarbonyl-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-amino)-methyl]-benzoic acid ethyl ester | 7.00 g | C(C)OC(C1=C(C=CC=C1)CN(C1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C33H36N2O6
reactant | trifluoroacetic acid | 9.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-({4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenylamino}-methyl)-benzoic acid ethyl ester | 3.14 g | C(C)OC(C1=C(C=CC=C1)CNC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C28H28N2O4
